US09085517B2
4-[(3,4-dichlorobenzyl)oxy]-N-[(dimethylamino)sulfonyl]benzamide
To a solution of 3,4-dichlorobenzyl alcohol (500 mg, 2.8 mmol) in THF (20 mL) was added sodium hydride (113 mg, 2.8 mmol, 60% dispersion in mineral oil) and stirred at room temperature for 2 hours and then at 50° C. for 30 minutes. Cooled to room temperature and the solvent removed in vacuo to afford an orange solid. This was dissolved in DMSO (5 mL) to which was added a solution of N-[(dimethylamino)sulfonyl]-4-fluorobenzamide (Preparation 11, 580 mg, 2.3 mmol) in DMSO (10 mL) slowly. The dark red solution was heated at 50° C. for 18 h then 120° C. for 2 hours. The mixture was cooled and poured onto water (50 mL) containing 2M HCl (30 mL) and extracted with EtOAc (2×30 mL), washed with 1M HCl (30 mL) and dried over MgSO4, filtered and solvent removed in vacuo to give 1.9 g of crude residue that was purified using reverse phase preparative HPLC to afford the title compound.

reactant | 3,4-dichlorobenzyl alcohol | 2.8 mmol, 500 mg | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | sodium hydride | 2.8 mmol, 113 mg | [H-].[Na+]
reactant | N-[(dimethylamino)sulfonyl]-4-fluorobenzamide | 2.3 mmol, 580 mg | CN(S(=O)(=O)NC(C1=CC=C(C=C1)F)=O)C | C9H11FN2O3S
reactant | HCl | 2M, 30 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-[(3,4-dichlorobenzyl)oxy]-N-[(dimethylamino)sulfonyl]benzamide | ClC=1C=C(COC2=CC=C(C(=O)NS(=O)(=O)N(C)C)C=C2)C=CC1Cl | C16H16Cl2N2O4S
